US05583247
(A) N,N-Diethyl-2-(3,5-di-tert-butyl-4-hydroxyphenyl)acetamide
7.92 g (0.03 Mol) of (3,5-di-tert-butyl-4-hydroxyphenyl)acetic acid are stirred overnight in 40 ml of heptane and 20 ml of dichloromethane with 4 ml of thionyl chloride and 4 drops of N,N-dimethylformamide. An additional 90 ml of heptane are added and then 90 ml of solvent and the excess amount of thionyl chloride are distilled off. The residual solution is cooled to room temperature and then 7.5 ml (0.072 mol) of diethylamine are added dropwise. The mixture is stirred one hour, then washed with water, 5% hydrochloric acid and water again. The solvent is evaporated in vacuo, and the residue is crystallized twice from acetonitrile to give 6.5 g of the intermediate product as colorless needles, melting at 111°-113° C.

reactant | (3,5-di-tert-butyl-4-hydroxyphenyl)acetic acid | 0.03 Mol, 7.92 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CC(=O)O | C16H24O3
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | thionyl chloride | 4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | diethylamine | 0.072 mol, 7.5 ml | C(C)NCC | C4H11N
solvent | heptane | 40 ml | CCCCCCC | C7H16
catalyst | N,N-dimethylformamide | 4 drops | CN(C=O)C | C3H7NO
solvent | heptane | 90 ml | CCCCCCC | C7H16
product | N,N-Diethyl-2-(3,5-di-tert-butyl-4-hydroxyphenyl)acetamide | 6.5 g | C(C)N(C(CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)CC | C20H33NO2
